US04117125
A mixture of 21.5 g. (11.4 mmol) of 1-[2-(acetylamino)ethyl]-1,4-dihydro-5H-tetrazole-5-thione in 300 ml. of 6N hydrochloric acid was heated at reflux for 3.5 hours. The mixture was filtered after cooling to room temperature. The filtrate was concentrated to small volume. The residual liquid was diluted with i-propanol. The solid which precipitated was filtered, washed and dried in vacuo to give 13.7 g. of 1-(2-aminoethyl)-1,4-dihydro-5H-tetrazole-5-thione, hydrochloride (66.1% yield) mp 232°-233.5° C.

reactant | 1-[2-(acetylamino)ethyl]-1,4-dihydro-5H-tetrazole-5-thione | 11.4 mmol | C(C)(=O)NCCN1N=NNC1=S | C5H9N5OS
reactant | hydrochloric acid | 6N | Cl | ClH
product | 1-(2-aminoethyl)-1,4-dihydro-5H-tetrazole-5-thione, hydrochloride | 66.1% yield | Cl.NCCN1N=NNC1=S | InChI=1S/C3H7N5S.ClH/c4-1-2-8-3(9)5-6-7-8;/h1-2,4H2,(H,5,7,9);1H
